US07129268B2
{4-[3,3-Bis-(3-methyl-thiophen-2-yl)-allylsulfanyl]-2-trifluoromethyl-phenoxy}-acetic acid
A solution of {4-[3,3-bis-(3-methyl-thiophen-2-yl)-allylsulfanyl]-2-trifluoromethyl-phenoxy}-acetic acid ethyl ester (75 mg, 0.15 mmol) in 1N NaOH (0.02 ml) and ethanol (10 ml) was stirred at room temperature for 2 hours. The reaxtion mixture was evaporated and the residue dissolved in 1 N HCl (0.03 ml). The aquous phase was extracted with methylene choride (3×25 ml), dried (MgSO4) and evaporated to give the title compound in 70 mg (99%) yield.

reactant | {4-[3,3-bis-(3-methyl-thiophen-2-yl)-allylsulfanyl]-2-trifluoromethyl-phenoxy}-acetic acid ethyl ester | 0.15 mmol, 75 mg | C(C)OC(COC1=C(C=C(C=C1)SCC=C(C=1SC=CC1C)C=1SC=CC1C)C(F)(F)F)=O | C24H23F3O3S3
solvent | NaOH | 1N, 0.02 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | {4-[3,3-Bis-(3-methyl-thiophen-2-yl)-allylsulfanyl]-2-trifluoromethyl-phenoxy}-acetic acid | CC1=C(SC=C1)C(=CCSC1=CC(=C(OCC(=O)O)C=C1)C(F)(F)F)C=1SC=CC1C | C22H19F3O3S3
